US09387200B2
a) 3-(4-Chloro-phenyl)-4-hydroxy-7-(3-methoxy-phenyl)-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
The title compound was synthesized in analogy to Example 1 from 7-Bromo-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and 3-methoxyphenylboronic acid: MS (m/z) 441.1 (M+1).

reactant | 7-Bromo-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C2=CC=C(C=C2)Cl)O | C15H10BrClN2O3S
reactant | 3-methoxyphenylboronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 3-(4-Chloro-phenyl)-4-hydroxy-7-(3-methoxy-phenyl)-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C1=CC(=CC=C1)OC)SN=C2C2=CC=C(C=C2)Cl)O | C22H17ClN2O4S
